US08389524B2
(a) Ethyl 6,7-dihydro-5H-cyclopenta[c]pyridine-3-carboxylate
A solution of 1,6-heptadiyne (1.242 ml, 10.85 mmol) and ethyl cyanoformate (1.063 ml, 10.85 mmol) in dry degassed 1,4-dioxane (100 ml) under argon at rt was treated with cyclopentadienyl-Cobalt(I)-dicarbonyl (0.293 g, 1.628 mmol) and then heated at reflux for 18 h. Reaction was then evaporated, treated with toluene (100 ml), re-evaporated, dissolved in DCM (100 ml), filtered through a short pad of Kieselguhr, eluting with DCM, organic extracts evaporated, chromatographed (0-100% DCM:40-60 Petroleum ether then 0-10% methanol/DCM) to give product as an impure brown oil (427 mg, 21%).

reactant | 1,6-heptadiyne | 10.85 mmol, 1.242 ml | C#CCCCC#C | C7H8
reactant | ethyl cyanoformate | 10.85 mmol, 1.063 ml | C(#N)C(=O)OCC | C4H5NO2
product | Ethyl 6,7-dihydro-5H-cyclopenta[c]pyridine-3-carboxylate | 427 mg, 21% | C1=NC(=CC2=C1CCC2)C(=O)OCC | C11H13NO2
